US08242280B2
465 mg (1.00 mmol) of 2,2-dimethyl-propionic acid 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester, 50 mg (61 μmol) of dichloro[1,1′-bis(diphenyl-phoshino)ferrocene]palladium(II) dichloromethane adduct and 340 mg (1.02 mmol) of (3-bromo-phenyl)-(3-trifluoromethyl-pyridin-2-yl)-methanol were place in a microwave vial. 8 mL of acetonitrile, 3 mL of toluene and 8 mL of a saturated aqueous solution of sodium bicarbonate were added. The vial was sealed and the resulting mixture heated in an oil bath to 65° C. for 22 h. The resulting mixture was distributed between dichloromethane and a saturated aqueous solution of sodium bicarbonate. The aqueous layer was extracted twice with dichloromethane and the combined organic phases were dried over sodium sulfate and evaporated. The resulting residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford 388 mg (0.66 mmol, 66%) of 2,2-dimethyl-propionic acid 5-{3-[hydroxy-(3-trifluoromethyl-pyridin-2-yl)-methyl]-phenyl}-3-(2-methoxy-phenyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester as a beige solid. 1H NMR (500 MHz, DMSO-d6) α 8.90 (d, 1H), 8.86 (d, 1H), 8.34 (d, 1H), 8.20 (d(d), 1H), 7.81 (s, 1H), 7.67-7.64 (m, 2H), 7.56-7.50 (m, 2H), 7.45 (t, 1H), 7.39 (d, 1H), 7.27 (d, 1H), 7.13 (t, 1H), 6.51 (s, 2H), 6.26 (d, 1H), 6.11 (d, 1H), 3.86 (s, 3H), 1.12 (s, 9H); MS: m/z 591.1 (M+H+), 613.1 (M+Na+).

reactant | 2,2-dimethyl-propionic acid 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | 1.00 mmol, 465 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)COC(C(C)(C)C)=O | C25H32BN3O5
reactant | (3-bromo-phenyl)-(3-trifluoromethyl-pyridin-2-yl)-methanol | 1.02 mmol, 340 mg | BrC=1C=C(C=CC1)C(O)C1=NC=CC=C1C(F)(F)F | C13H9BrF3NO
reactant | acetonitrile | 8 mL | C(C)#N | C2H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | dichloro[1,1′-bis(diphenyl-phoshino)ferrocene]palladium(II) dichloromethane adduct | 61 μmol, 50 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethyl-propionic acid 5-{3-[hydroxy-(3-trifluoromethyl-pyridin-2-yl)-methyl]-phenyl}-3-(2-methoxy-phenyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | 0.66 mmol, 388 mg, 66% | OC(C=1C=C(C=CC1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COC(C(C)(C)C)=O)C2=NC=CC=C2C(F)(F)F | C32H29F3N4O4
